Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
High-Dose Methotrexate
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ man with HIV and CNS lymphoma 
receiving MTX (last cycle ___ s/p Portacath insertion 
___ by ___ and recent NSTEMI while admitted for methotrexate 
therapy presents for maintenance HD-MTX for his lymphoma.  Since 
his last admission, ___ denies any changes in symptoms and is 
doing well.  ___ recently returned from a trip to ___. ___ 
no changes in his neurologic symptoms since his last 
chemotherapy visit.  ___ claims stable double vision, occasional 
dizziness with sudden turns, but denies weakness of 
numbness/tingling.  ___ has occasional headaches which resolve 
spontaneously.

On arrival to the floor, patient reports ___ is feeling well and 
would like to start his chemotherapy.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___  - stereotaxic biopsy of the mass by Dr. ___  
-- ___  - started high-dose methotrexate  
-- ___  - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___  - C4D1 HD-MTX
-- ___  - C5D1 HD-MTX
-- ___  - C6D1 HD-MTX
-- ___  - C7D1 HD-MTX
-- ___  - C8D1 HD-MTX
-- ___  - C9D1 HD-MTX
-- ___  - C10D1 HD-MTX
-- ___  - C11D1 HD-MTX
 
PAST MEDICAL HISTORY:
-coronary artery disease s/p PCI in ___ and ___
-NSTEMI ___
-HIV
-pancreatitis (possibly from dapsone)
-hypertension,
-hypercholesterolemia
-gastric ulcer
-h/o right-sided ophthalmic shingles as well as shingles in V3
distribution in ___.  
 
Social History:
___
Family History:
Mother - diabetes
Father - glaucoma, prostate cancer
 
Physical Exam:
Admission Physical Examination
VITAL SIGNS: Reviewed. Stable. Afebrile.
GENERAL: NAD.  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, non-tender supple neck, no 
LAD, JVP is at the base of clavicle at 30-degrees, non-tender 
thyroid
CARDIAC: RRR, S1/S2, no murmurs
CHEST: Powerport in place, non-tender, not-erythemtous or warm
LUNGS: Clear, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: obese, non-distended, +BS, tender to deep palpation in 
the epigastrum, no rebound/guarding
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, no obvious deformities  
PULSES: 2+ DP pulses bilaterally  
NEUROLOGICAL EXAMINATION: CN II-XII intact. ___ strength in 
upper and lower extremities, sensation intact in upper and lower 
extremities, coordination normal, negative romberg, gait normal, 
no dysdiadochokinesis 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

Discharge Physical Examination
VITAL SIGNS: Temperature 98.3 F, blood pressure 110/62, pulse 
56, respiration 18 and oxygen saturation 98% on room air
GENERAL: NAD.  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, non-tender supple neck, no 
LAD, JVP is at the base of clavicle at 30-degrees, non-tender 
thyroid
CARDIAC: RRR, S1/S2, no murmurs
CHEST: Powerport in place, non-tender, not-erythemtous or warm
LUNGS: Clear, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: obese, non-distended, +BS, not tender to palpation, no 
rebound/guarding
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, no obvious deformities  
PULSES: 2+ DP pulses bilaterally  
NEUROLOGICAL EXAMINATION: CN II-XII intact. ___ strength in 
upper and lower extremities, sensation intact in upper and lower 
extremities, gait normalSKIN: warm and well perfused, no 
excoriations or lesions, no rashes.
 
Pertinent Results:
Admit Labs
___ 01:15PM BLOOD WBC-6.1 RBC-4.18* Hgb-12.3* Hct-38.3* 
MCV-92 MCH-29.4 MCHC-32.1 RDW-14.0 Plt ___
___ 01:15PM BLOOD ___ PTT-29.3 ___
___ 01:15PM BLOOD Glucose-136* UreaN-13 Creat-0.9 Na-140 
K-3.6 Cl-104 HCO3-26 AnGap-14
___ 01:15PM BLOOD ALT-15 AST-17 AlkPhos-78 TotBili-0.6
___ 01:15PM BLOOD Calcium-8.5 Phos-3.9 Mg-1.9

Pertinent Labs
___ 06:15PM BLOOD mthotrx-1.5
___ 06:08AM BLOOD mthotrx-0.26

Discharge Labs
___ 05:14AM BLOOD WBC-5.7 RBC-4.08* Hgb-12.3* Hct-37.4* 
MCV-92 MCH-30.0 MCHC-32.8 RDW-13.4 Plt ___
___ 05:14AM BLOOD Neuts-80.6* Lymphs-17.6* Monos-0.8* 
Eos-1.0 Baso-0.1
___ 07:30AM BLOOD ___
___ 05:14AM BLOOD  WBC-5.7 Lymph-18 Abs ___ CD3%-93 
Abs CD3-949 CD4%-15 Abs CD4-157* CD8%-77 Abs CD8-790* 
CD4/CD8-0.2*
___ 05:14AM BLOOD Glucose-142* UreaN-11 Creat-0.9 Na-140 
K-3.3 Cl-103 HCO3-27 AnGap-13
___ 05:14AM BLOOD ALT-44* AST-26 LD(LDH)-187 AlkPhos-67 
TotBili-0.4
___ 06:08AM BLOOD Calcium-8.5 Phos-3.1# Mg-2.1
___ 05:14AM BLOOD mthotrx-0.04
 
Brief Hospital Course:
___ is a ___ man with HIV and hx of CNS 
lymphoma presenting for high-dose methotrexate infusion.

Active Issues
1. CNS Lymphoma:  Patient is currently on maintenance 
methotrextae every 2 months.  ___ presented to the hospital ahead 
of his scheduled appointment.  ___ was begun on NaHCO3 and a 
methotrexate diet until his urine was pH >8.  ___ tolerated the 
infusion well but had some diarrhea (addressed below).  His 
serum methotrexate levels were monitored at 24 hours and daily 
until 0.04 uM.  ___ claimed no neurologic symptoms with the 
treatment.

2. Diarrhea: Patient began to have diarrhea following the 
initiation of the treatment.  ___ claims this was normal.  A C. 
difficile sample was sent and pending at the time of discahrge. 
CD4 count was also send and was low at 157.  Patient was started 
on prophylactic bactrim prior to discharge and an appointment 
was setup with the physician assistant who oversees his HAART 
for the day following discharge. 

Chronic Issues
1. CAD:  ___ is s/p NSTEMI w/ PCI placed ___: patient follows 
with cardiolgoy while admitted. ___ was continued on his lipitor 
and plavix. Aspirin was held while admitted and resumed at 
discharge.

Transitional Issues
- please ensure patient knows schedule for next HD-MTX infusion
- please follow up with CD4 count given low count this 
admission, consider stool studies
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO Q8H 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. Atorvastatin 80 mg PO DAILY
 
Discharge Medications:
1. Acyclovir 800 mg PO Q8H 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. LOPERamide 2 mg PO QID:PRN diarrhea 
10. Aspirin 81 mg PO DAILY 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
12. Sulfameth/Trimethoprim DS 1 TAB PO 3X/WEEK (___) 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth 3x/week Disp #*12 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
CNS Lymphoma

Secondary Diagnoses:
HIV
CAD s/p NSTEMI w/ PCI
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___!

You were admitted for high-dose methotrexate maintenance 
therapy.  You received IV fluids and your methotrexate levels 
were monitored, which dropped appropriately.

Please come back on you scheduled date for your next maintenance 
chemotherapy.

Your ___ Team
 
Followup Instructions:
___